US04255436
2-oxo-4-(p-chlorophenyl)-5,5-dimethyl-3-thiazoline-oxime was reacted with methyl isocyanate as described in Example 4 to yield 2-oxo-4-(p-chlorophenyl)-5,5-dimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime, m.p. 147°-149° C. The 2-oxo-4-(p-chlorophenyl)-5,5-dimethyl-3-thiazoline-oxime starting material melts at 205°-207° C.

reactant | 2-oxo-4-(p-chlorophenyl)-5,5-dimethyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C1=CC=C(C=C1)Cl)(C)C | C11H11ClN2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 2-oxo-4-(p-chlorophenyl)-5,5-dimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)C1=CC=C(C=C1)Cl)(C)C | C13H14ClN3O2S
